US09108977B2
To a mixed solution of 770 mg of t-butyl[2-(1,2,3,4-tetrahydroquinolin-7-yl)ethyl]carbamate in 15 ml of dichloromethane and 3 ml of MeOH were added 420 mg of calcium carbonate and 970 mg of benzyltrimethylammonium dichloroiodate, followed by stirring at room temperature for 2 hours. The insoluble materials were removed by filtration and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel chromatography (elution solvent: HEX-EtOAc) to obtain 595 mg of t-butyl [2-(6-iodo-1,2,3,4-tetrahydroquinolin-7-yl)ethyl]carbamate as a reddish brown viscous substance.

reactant | t-butyl[2-(1,2,3,4-tetrahydroquinolin-7-yl)ethyl]carbamate | 770 mg | C(C)(C)(C)OC(NCCC1=CC=C2CCCNC2=C1)=O | C16H24N2O2
reactant | calcium carbonate | 420 mg | C([O-])([O-])=O.[Ca+2]
reactant | benzyltrimethylammonium dichloroiodate | 970 mg | I(=O)(=O)Cl.I(=O)(=O)Cl.C(C1=CC=CC=C1)[N+](C)(C)C
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | MeOH | 3 ml | CO | CH4O
product | t-butyl [2-(6-iodo-1,2,3,4-tetrahydroquinolin-7-yl)ethyl]carbamate | 595 mg | IC=1C=C2CCCNC2=CC1CCNC(OC(C)(C)C)=O | C16H23IN2O2
